US09387202B2
Prop-1-en-2-yl (4-(4-(4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamido)-2,5-difluorophenoxy)pyridin-2-yl)carbamate (0.14 g, 0.24 mmol) was treated with a solution of N-methylamine (2.0 M in THF, 4 mL, 8 mmol) and N-methylpyrrolidine (0.021 g, 0.24 mmol), and was stirred at RT for 3 h. The solid was collected by filtration and further purified by silica gel chromatography (EtOAc). The purified residue was treated with MeCN/H2O (1:1, 4 mL), frozen and lyophilized to obtain 1-(4-(2,5-difluoro-4-(1-(4-fluorophenyl)-4-(methylamino)-2-oxo-1,2-dihydropyridine-3-carboxamido)phenoxy)pyridin-2-yl)-3-methylurea (23 mg, 18% yield) as an off-white powder. 1H NMR (400 MHz, DMSO-d6): δ 13.21 (s, 1 H), 10.35 (d, J=6.0 Hz, 1 H), 9.13 (s, 1 H), 8.48 (dd, J=12.9, 7.2 Hz, 1 H), 8.06 (d, J=5.9 Hz, 1 H), 7.83 (s, 1 H), 7.72 (d, J=7.8 Hz, 1 H), 7.48 (m, 3 H), 7.34 (t, J=8.5 Hz, 2 H), 6.92 (s, 1 H), 6.57 (dd, J=6.0, 2.4 Hz, 1 H), 6.24 (d, J=7.9 Hz, 1 H), 3.01 (d, J=5.0 Hz, 3 H), 2.66 (d, J=4.6 Hz, 3 H); MS (ESI) m/z: 539.2 (M+H+).

reactant | Prop-1-en-2-yl (4-(4-(4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamido)-2,5-difluorophenoxy)pyridin-2-yl)carbamate | 0.24 mmol, 0.14 g | C(C)OC1=C(C(N(C=C1)C1=CC=C(C=C1)F)=O)C(=O)NC1=CC(=C(OC2=CC(=NC=C2)NC(OC(=C)C)=O)C=C1F)F | C29H23F3N4O6
reactant | N-methylamine | 8 mmol, 2.0 M, 4 mL | CN | CH5N
reactant | N-methylpyrrolidine | 0.24 mmol, 0.021 g | CN1CCCC1 | C5H11N
product | 1-(4-(2,5-difluoro-4-(1-(4-fluorophenyl)-4-(methylamino)-2-oxo-1,2-dihydropyridine-3-carboxamido)phenoxy)pyridin-2-yl)-3-methylurea | 23 mg, 18% yield | FC1=C(OC2=CC(=NC=C2)NC(=O)NC)C=C(C(=C1)NC(=O)C=1C(N(C=CC1NC)C1=CC=C(C=C1)F)=O)F | C26H21F3N6O4
